US09255089B2
Into a microwave vial containing 4-(3,5-dimethylisoxazol-4-yl)-2-iodo-N-methyl-6-nitroaniline (610 mg, 1.64 mmol, 1 equiv) is added EtOH (12 mL, 0.25M) and tin (II) chloride (622 mg, 3.28 mmol, 2 equiv). The reaction was heated for 30 min at 110° C. The reaction was then stirred in 2N NaOH solution for 20 minutes before being partitioned between water and ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. Purification was carried out by flash column chromatography to furnish 4-(3,5-dimethylisoxazol-4-yl)-6-iodo-N1-methylbenzene-1,2-diamine.

reactant | 4-(3,5-dimethylisoxazol-4-yl)-2-iodo-N-methyl-6-nitroaniline | 1.64 mmol, 610 mg, 1 equiv | CC1=NOC(=C1C1=CC(=C(NC)C(=C1)[N+](=O)[O-])I)C | C12H12IN3O3
reactant | EtOH | 0.25M, 12 mL | CCO | C2H6O
reactant | tin (II) chloride | 3.28 mmol, 622 mg, 2 equiv | [Sn](Cl)Cl
solvent | NaOH | 2N | [OH-].[Na+]
product | 4-(3,5-dimethylisoxazol-4-yl)-6-iodo-N1-methylbenzene-1,2-diamine | CC1=NOC(=C1C=1C=C(C(=C(C1)I)NC)N)C | C12H14IN3O
